US09278954B2
2-Bromo-5-(2,2-difluoro-cyclopropylmethoxy)-pyridine
The mixture of 0.30 g (1.7 mmol) of 2-bromo-5-hydroxypyridine, 0.59 g (3.5 mmol) of 1-bromoethyl-2,2-difluorocyclopropane and 0.60 g (4.3 mmol) of K2CO3 in 10 ml ACN is stirred at 70° C. over night. The reaction mixture is filtered over alumina/activated carbon. The solvent is removed in vacuo.

reactant | 2-bromo-5-hydroxypyridine | 1.7 mmol, 0.30 g | BrC1=NC=C(C=C1)O | C5H4BrNO
reactant | 1-bromoethyl-2,2-difluorocyclopropane | 3.5 mmol, 0.59 g | BrC(C)C1C(C1)(F)F | C5H7BrF2
reactant | K2CO3 | 4.3 mmol, 0.60 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ACN | 10 ml | C(C)#N | C2H3N
product | 2-Bromo-5-(2,2-difluoro-cyclopropylmethoxy)-pyridine | BrC1=NC=C(C=C1)OCC1C(C1)(F)F | C9H8BrF2NO
